US08026234B2
Compound 66: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(tetrahydro-2H-pyran-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and tetrahydro-2H-pyran-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.08-1.43 (m, 3H) 1.49-1.90 (m, 11H) 3.19-3.32 (m, 3H) 3.32-3.46 (m, 2H) 3.84-3.92 (m, 2H) 3.94 (d, J=9.0 Hz, 3H) 3.97-4.08 (m, 1H) 4.07-4.23 (m, 2H) 4.38-4.58 (m, 1H) 7.42-7.61 (m, 2H) 8.06-8.17 (m, 1H) 8.24 (br. s., 2H) 8.62 (br. s., 1H). [M+H] calc'd for C27H34F2N6O4 545. found 545.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tetrahydro-2H-pyran-4-amine | O1CCC(CC1)N | C5H11NO
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(tetrahydro-2H-pyran-4-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCOCC1)C=C2)OC | C27H34F2N6O4
